US06833378B2
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-3-methylsulfanyl-propylamino)-6-methyl-nicotinic acid methyl ester
A mixture of 2-(4-chloro-2,6-dimethyl-phenoxy)-4-chloro-6-methyl-nicotinic acid methyl ester and L-methioninol in N-methyl-2-pyrodone (NMP) was heated in a 134° C. oil bath for 3 hr. Standard work-up procedure and purification provided the title compound. 1H NMR(CDCl3) d 8.25(d,1H), 7.02(s,2H), 6.30(s,1H), 3.85(s,3H), 3.6-3.9(m,3H), 2.5-2.7(m,2H), 2.14(s,3H), 2.10(s,3H), 2.06(s,6H), 1.8-2.1 (m,2H)ppm.

reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-chloro-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1Cl)C)OC1=C(C=C(C=C1C)Cl)C)=O | C16H15Cl2NO3
reactant | L-methioninol | N[C@@H](CCSC)CO | C5H13NOS
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-3-methylsulfanyl-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CCSC)CO)C)OC1=C(C=C(C=C1C)Cl)C)=O | C21H27ClN2O4S
